US06737417B2
A solution of boron tribromide in dichloromethane (1.0 M, 8.5 ml, 8.47 mmol) was added dropwise to a solution of 9-[6-methoxy-2-(4-methoxyphenyl)naphth-1-yl]-2-(4,4,5,5,5-pentafluoropentyl)nonanoic acid (820 mg, 1.41 mmol) in dichloromethane (20 ml) at −78° C. under argon atmosphere. The reaction mixture was warmed with stirring to 0° C. over 5 hours. Water was added to the reaction mixture, which was then extracted with ethyl acetate. The organic layer was washed with water and saturated aqueous sodium chloride, and then dried over anhydrous magnesium sulfate. After distilling off the solvent, the residue was purified by silica gel column chromatography (eluent: ethyl acetate/hexane=3/2), followed by column chromatography on reversed-phase silica gel RP-18 (eluent: acetonitrile containing 0.1% trifluoroacetic acid/water=3/2), to give 9-[6-hydroxy-2-(4-hydroxyphenyl)naphth-1-yl]-2-(4,4,5,5,5-pentafluoropentyl)nonanoic acid (633 mg, Yield 81%).

reactant | boron tribromide | B(Br)(Br)Br | BBr3
reactant | 9-[6-methoxy-2-(4-methoxyphenyl)naphth-1-yl]-2-(4,4,5,5,5-pentafluoropentyl)nonanoic acid | 1.41 mmol, 820 mg | COC=1C=C2C=CC(=C(C2=CC1)CCCCCCCC(C(=O)O)CCCC(C(F)(F)F)(F)F)C1=CC=C(C=C1)OC | C32H37F5O4
reactant | Water | O | H2O
reactant | acetonitrile | C(C)#N | C2H3N
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 8.47 mmol, 1.0 M, 8.5 ml | ClCCl | CH2Cl2
product | 9-[6-hydroxy-2-(4-hydroxyphenyl)naphth-1-yl]-2-(4,4,5,5,5-pentafluoropentyl)nonanoic acid | 633 mg, Yield 81% | OC=1C=C2C=CC(=C(C2=CC1)CCCCCCCC(C(=O)O)CCCC(C(F)(F)F)(F)F)C1=CC=C(C=C1)O | C30H33F5O4
